US07214674B2
5-(2-Bromoethoxy)-7-chloro-2-methylquinoline (D30)
The title compound was prepared from 7-chloro-5-hydroxy-2-methylquinoline and 1,2-dibromoethane using a similar procedure to Description 16.

reactant | 7-chloro-5-hydroxy-2-methylquinoline | ClC1=CC(=C2C=CC(=NC2=C1)C)O | C10H8ClNO
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | 5-(2-Bromoethoxy)-7-chloro-2-methylquinoline | BrCCOC1=C2C=CC(=NC2=CC(=C1)Cl)C | C12H11BrClNO
